US03998879
Reaction of equimolar amounts of 5-isopropyl-1,3-cyclohexanedione with benzenesulfonylisocyanate in benzene according to the procedure of Example 1 affords 5-ISOPROPYL-2-(N-BENZENESULFONYLCARBAMOYL)-1,3-CYCLOHEXANEDIONE, m.p. 112.5°-114° C. (corr.).

reactant | 5-isopropyl-1,3-cyclohexanedione | C(C)(C)C1CC(CC(C1)=O)=O | C9H14O2
reactant | benzenesulfonylisocyanate | C1(=CC=CC=C1)S(=O)(=O)N=C=O | C7H5NO3S
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 5-ISOPROPYL-2-(N-BENZENESULFONYLCARBAMOYL)-1,3-CYCLOHEXANEDIONE | C(C)(C)C1CC(C(C(C1)=O)C(NS(=O)(=O)C1=CC=CC=C1)=O)=O | C16H19NO5S
